US07943609B2
(11S)-11-Methyl-2-(2-morpholin-4-ylethoxy)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine
A solution of (11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-ol (500 mg, 1.85 mmol) dissolved in 15 mL of DMF was treated with cesium carbonate (1.80 g, 5.55 mmol), 4-(2-chloroethyl) morpholine hydrochloride (378 mg, 2.03 mmol), and tetrabutylammonium bromide (715 mg, 2.22 mmol). After stirring overnight at ambient temperature, the light brown mixture was poured into 150 mL of H2O and stirred for 30 minutes. The reaction mixture was extracted with CHCl3 (3×75 mL) and the combined extracts were dried over MgSO4, filtered and concentrated under reduced pressure to give an off-white solid. Chromatography (SiO2, 0-20% CMA/CHCl3) gave an off-white solid which was crystallized from acetonitrile to give 262 mg of the title compound as an off-white solid, mp 186-188° C.

reactant | (11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-ol | 1.85 mmol, 500 mg | NC1=NC2=CC=C(C=C2C2=C1N=C1N2[C@H](COC1)C)O | C14H14N4O2
reactant | cesium carbonate | 5.55 mmol, 1.80 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(2-chloroethyl) morpholine hydrochloride | 2.03 mmol, 378 mg | Cl.ClCCN1CCOCC1
reactant | H2O | 150 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium bromide | 2.22 mmol, 715 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (11S)-11-Methyl-2-(2-morpholin-4-ylethoxy)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 262 mg | C[C@H]1COCC=2N1C1=C(C(=NC3=CC=C(C=C13)OCCN1CCOCC1)N)N2 | C20H25N5O3
